US06759428B2
To a solution of 6-Chloro-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide (6.17 g, 17.19 mmol) in DMF (35 ml) were added NaH as a 60% wt suspension in mineral oil (0.687 g, 17.19 mmol) at 0° C. The slurry was stirred for one hour at room temperature and methyl iodide (1.07 ml, 17.19 mmol) was added. The solution was stirred for four hours and partitioned between ethyl acetate (200 ml) and 1 N HCl (300 ml). The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated. Recrystallizing from ethyl acetate: hexane (1:10) yielded 6-Chloro-1-methyl-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide (4.76 g, 74%). [M+H=373].

reactant | 6-Chloro-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | 17.19 mmol, 6.17 g | C(#N)CNC(=O)C1C(CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)Cl | C18H19ClN4O2
reactant | NaH | [H-].[Na+]
reactant | methyl iodide | 17.19 mmol, 1.07 ml | CI | CH3I
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-1-methyl-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | 4.76 g, 74% | C(#N)CNC(=O)C1C(CCCC1)NC(=O)C=1N(C2=CC(=CC=C2C1)Cl)C | C19H21ClN4O2
